US05502065
5-(3-Hydroxymethylphenyl)-3-(pyrrolidin-2(R)-ylmethyl)-1H-indole
3-(1-Benzyloxycarbonylpyrrolidin-2(R)-ylmethyl)-5-(3-hydroxymethylphenyl)-1H-indole (1.030 g, 2.316 mmol) (see Preparation 38) in ethanol was reduced using catalytic hydrogenation as described in Example 35 except that no acetyl chloride was used in the reaction. This gave the title compound as an off-white foam (453 mg). Found: C,72.36; H,6.76; N,8.20; C20H22N2O.3/8CH2Cl2 requires: C,72.35; H,6.78; N,8.28%.

reactant | 3-(1-Benzyloxycarbonylpyrrolidin-2(R)-ylmethyl)-5-(3-hydroxymethylphenyl)-1H-indole | 2.316 mmol, 1.030 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C1=CC(=CC=C1)CO | C28H28N2O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-Hydroxymethylphenyl)-3-(pyrrolidin-2(R)-ylmethyl)-1H-indole | 453 mg | OCC=1C=C(C=CC1)C=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C20H22N2O
